US06897231B2
A. (1R)[N-(3-{1-Perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)carbamoyl]phenylmethyl acetate
To a solution of (R)-2-acetoxy-2-phenylacetic acid (0.097 g, 0.498 mmol) in 2.0 mL of dichloromethane, was added 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (EDCI) as a solid (0.100 g, 0.520 mmol). The solution was stirred at room temperature for 10 min before 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine (0.150 g, 0.248 mmol), dissolved in 1 mL of dichloromethane, was added. The reaction was stirred at room temperature for 2 hours. The reaction mixture was then partitioned between dichloromethane and water. (Yield not calculated) ES-MS (m/z) 779 [M+H]+.

reactant | (R)-2-acetoxy-2-phenylacetic acid | 0.498 mmol, 0.097 g | C(C)(=O)O[C@@H](C(=O)O)C1=CC=CC=C1 | C10H10O4
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 0.520 mmol, 0.100 g | Cl.CN(CCCN=C=NCC)C
reactant | 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine | 0.248 mmol, 0.150 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)N | C39H34N6O
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | (1R)[N-(3-{1-Perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)carbamoyl]phenylmethyl acetate | C(C)(=O)O[C@H](C1=CC=CC=C1)C(NC1=CC(=CC=C1)C1=NN(C2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCC1)=O | C49H42N6O4
